US07317027B2
(i) 1-(6-Chloro-benzo[b]thiophen-2-ylmethyl)-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester
To a solution of 660 mg (2.497 mmol) 5-(2-Methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester in 15 mL absolute DMF 24 mg (2.497 mmol) NaH (96%) were added in an argon atmosphere. The mixture was stirred for 30 min. at room temperature. 623 mg (2.497 mmol) 2-Bromomethyl-6-chloro-benzo[b]thiophene [prepared by adopting a procedure described by Ewing, William R. et al. in; PCT Int. Appl. (1999), 300 pp. WO 9937304 A1; and Ewing, William R. et al. PCT Int. Appl. (2001), 460 pp. WO 0107436 A2] were added and the mixture stirred for 1 h at room temperature. The solvent was removed in vacuo and the residue purified by preparative HPLC (eluent: CH3CN/H2O/0.1% CF3COOH). The fractions containing the product were combined, concentrated in vacuo and lyophilized. Yield: 900 mg.

reactant | 5-(2-Methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | 2.497 mmol, 660 mg | C(C)OC(=O)C1=CC=2C(=CN=C(C2)OCCOC)N1 | C13H16N2O4
reactant | DMF | 2.497 mmol, 15 mL, 24 mg | CN(C)C=O | C3H7NO
reactant | 2-Bromomethyl-6-chloro-benzo[b]thiophene | 2.497 mmol, 623 mg | BrCC1=CC2=C(S1)C=C(C=C2)Cl | C9H6BrClS
product | 1-(6-Chloro-benzo[b]thiophen-2-ylmethyl)-5-(2-methoxy-ethoxy)-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC=2C(=CN=C(C2)OCCOC)N1CC1=CC2=C(S1)C=C(C=C2)Cl | C22H21ClN2O4S
